US07026326B2
To a 500 mL round bottom flask (RBF), was added ethyl (3-bromo-phenyl)acetate (10.3 g, 42.2 mmol), 4-cyanopyridine (4.4 g, 42.2 mmol) and 56 mL DMF. The mixture was stirred at room temperature under nitrogen. 42 mL 1 M KOtBu in tBuOH was added drop wise, and stirred for 1 h at rt. Methyl isothiocyanate (3.08 g, 42.2 mmol) was added in one portion, and stirred for another one hour at rt. The mixture was cooled down to 0° C., iodomethane (2.7 mL, 42.2 mmol) was added drop wise and stirred for 1 h at 0° C. To quench the reaction, 100 mL H2O was added. Yellow solid was precipitated. After filtration and washed with H2O, the 5-(3-bromo-phenyl)-3-methyl-2-methylsulfanyl-6-pyridin-4-yl-3H-pyrimidin-4-one was obtained in 9.2 g as pale yellow powder. MS (ES+): 388 (M+H)+; (ES−): 386 (M−H).

reactant | ethyl (3-bromo-phenyl)acetate | 42.2 mmol, 10.3 g | BrC=1C=C(C=CC1)CC(=O)OCC | C10H11BrO2
reactant | 4-cyanopyridine | 42.2 mmol, 4.4 g | C(#N)C1=CC=NC=C1 | C6H4N2
reactant | KOtBu | 1 M, 42 mL | CC(C)(C)[O-].[K+]
reactant | Methyl isothiocyanate | 42.2 mmol, 3.08 g | CN=C=S | C2H3NS
reactant | iodomethane | 42.2 mmol, 2.7 mL | IC | CH3I
solvent | tBuOH | CC(C)(C)O | C4H10O
solvent | DMF | 56 mL | CN(C)C=O | C3H7NO
product | 5-(3-bromo-phenyl)-3-methyl-2-methylsulfanyl-6-pyridin-4-yl-3H-pyrimidin-4-one | BrC=1C=C(C=CC1)C=1C(N(C(=NC1C1=CC=NC=C1)SC)C)=O | C17H14BrN3OS
